US07638629B2
Step 1: 3-Methyl-2-[4-(trifluoromethyl)phenyl]pyridine
A mixture of 2-chloro-3-methylpyridine (6.38 g, 50 mmol) and 4-(trifluoromethyl)benzeneboronic acid (9.59 g, 50 mmol) in DME (75 ml) and Na2CO3 solution (2M, 75 ml) was deoxygenated by bubbling nitrogen through the mixture for 15 mins. Tetrakis (triphenylphosphine) palladium (0) (1.155 g, 1.0 mmol) was added and the reaction was degassed for a further 10 mins. The reaction was heated at reflux for 16 hrs then cooled to rt. The mixture was extracted with EtOAc (×3), the combined extracts were washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (silica, 10-30% EtOAc/isohexane) to give the pyridine (10.75 g, 91%). 1H NMR (360 MHz, CDCl3) δ: 2.36 (3H, s), 7.21-7.26 (1H, m), 7.60-7.72 (5H, m), 8.54-8.55 (1H, m).

reactant | 2-chloro-3-methylpyridine | 50 mmol, 6.38 g | ClC1=NC=CC=C1C | C6H6ClN
reactant | 4-(trifluoromethyl)benzeneboronic acid | 50 mmol, 9.59 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | DME | 75 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 75 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis (triphenylphosphine) palladium (0) | 1.0 mmol, 1.155 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Methyl-2-[4-(trifluoromethyl)phenyl]pyridine | CC=1C(=NC=CC1)C1=CC=C(C=C1)C(F)(F)F | C13H10F3N
